US05541032
Preparation of 3-methoxyphenacylpyridinium chloride
The title compound was prepared similarly to Example 1 from 3-methoxyphenacyl chloride and pyridine in a yield of 93%.

reactant | 3-methoxyphenacyl chloride | COC=1C=C(C(CCl)=O)C=CC1 | C9H9ClO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-methoxyphenacylpyridinium chloride | yield of 93% | [Cl-].COC=1C=C(C(C[N+]2=CC=CC=C2)=O)C=CC1 | InChI=1S/C14H14NO2.ClH/c1-17-13-7-5-6-12(10-13)14(16)11-15-8-3-2-4-9-15;/h2-10H,11H2,1H3;1H/q+1;/p-1
